US04731358
3-methyl-β-carboline
2 g of 3-hydroxymethyl-β-carboline, 3.7 g of sodium iodide and 2.5 ml of chlorotrimethylsilane are stirred in 50 ml of N,N-dimethylformamide at a bath temperature of 35° C. for 4 hours. 3 g of zinc powder and 10 ml of glacial acetic acid are added to the resulting yellow suspension and stirred for another 18 hours at 80° C. The reaction mixture is allowed to clarify on Celite and the filtrate is concentrated under vacuum. The resulting oil is chromatographed on silica gel (methylene chloride/ethanol: 9+1). 0.825 g of 3-methyl-β-carboline with a 255°-256° C. melting point was obtained.

reactant | 3-hydroxymethyl-β-carboline | 2 g | OCC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H10N2O
reactant | sodium iodide | 3.7 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 2.5 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 3 g | [Zn] | Zn
product | 3-methyl-β-carboline | CC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H10N2
